US04299769
As for Example 6, 1-methyl-2-pyrrolecarboxaldehyde is converted to α-(1-methyl-2-pyrrolyl)-4-morpholineacetonitrile. The preceding compound is reacted with ethyl acrylate and the resulting 1,4-addition product is heated at 100° C. with 6 N hydrochloric acid to give 3-(1-methyl-2-pyrrolylcarbonyl)propionic acid.

reactant | 1-methyl-2-pyrrolecarboxaldehyde | CN1C(=CC=C1)C=O | C6H7NO
reactant | α-(1-methyl-2-pyrrolyl)-4-morpholineacetonitrile | CN1C(=CC=C1)C(C#N)N1CCOCC1 | C11H15N3O
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 3-(1-methyl-2-pyrrolylcarbonyl)propionic acid | CN1C(=CC=C1)C(=O)CCC(=O)O | C9H11NO3
